US07507740B2
(i) Production of 6-chloro-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-5-nitropyrimidin-4-amine hydrochloride
4,6-Dichloro-5-nitropyrimidine (9.7 g) was dissolved in 1-methyl-2-pyrrolidone (25.7 mL), a solution of 3-methyl-4-[(6-methylpyridin-3-yl)oxy]aniline (5.35 g) in 1-methyl-2-pyrrolidone (10 mL) was added dropwise under cooling at −15° C., and the mixture was stirred at −10° C. to 0° C. for 1 hr. The mixture was diluted with ethyl acetate (100 mL) and stirred at 0° C. for 15 min. The precipitated crystals were collected by filtration, washed with ethyl acetate (30 mL), and dried under reduced pressure to give the title compound (7.34 g).

reactant | 4,6-Dichloro-5-nitropyrimidine | 9.7 g | ClC1=NC=NC(=C1[N+](=O)[O-])Cl | C4HCl2N3O2
reactant | 3-methyl-4-[(6-methylpyridin-3-yl)oxy]aniline | 5.35 g | CC=1C=C(N)C=CC1OC=1C=NC(=CC1)C | C13H14N2O
solvent | 1-methyl-2-pyrrolidone | 25.7 mL | CN1C(CCC1)=O | C5H9NO
solvent | 1-methyl-2-pyrrolidone | 10 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 6-chloro-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-5-nitropyrimidin-4-amine hydrochloride | 7.34 g | Cl.ClC1=C(C(=NC=N1)NC1=CC(=C(C=C1)OC=1C=NC(=CC1)C)C)[N+](=O)[O-] | InChI=1S/C17H14ClN5O3.ClH/c1-10-7-12(22-17-15(23(24)25)16(18)20-9-21-17)4-6-14(10)26-13-5-3-11(2)19-8-13;/h3-9H,1-2H3,(H,20,21,22);1H
